US05225402
Ethanethiol (0.125 ml) is dissolved in methanol (10 ml) and thereto is added sodium methoxide (0.11 g). The mixture is stirred at room temperature for 30 minutes. Thereto is added a solution of 1-{1-[4-(3-bromopropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.59 g) in methanol (2 ml) and the mixture is stirred at room temperature overnight. The solvent is concentrated and water is added to the residue, extracted with chloroform, dried with sodium carbonate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:1) to give 1-{1-[4-(3-ethylthiopropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.2 g).

reactant | Ethanethiol | 0.125 ml | C(C)S | C2H6S
reactant | sodium methoxide | 0.11 g | C[O-].[Na+]
reactant | 1-{1-[4-(3-bromopropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.59 g | BrCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C24H27BrN2O3
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | 1-{1-[4-(3-ethylthiopropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.2 g | C(C)SCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C26H32N2O3S
